US05972975
EXAMPLE 43 2-Amino-5-carboxy-4-methylpyridine
A solution of 2-amino-5-cyano-4-methylpyridine (600 mg, 4.50 mmol) in ethanol (7.5 mL) was treated with 10N sodium hydroxide (7.5 mL) for 24 h at reflux temperature. The mixture was cooled and diluted with water (30 mL). The pH was adjusted to 7 with conc. hydrochloric acid and 1N hydrochloric acid. The resulting solid was filtered, dried by suction, washed with ether, and dried in vacuo; yield 134 mg (20%).

reactant | 2-amino-5-cyano-4-methylpyridine | 4.50 mmol, 600 mg | NC1=NC=C(C(=C1)C)C#N | C7H7N3
reactant | sodium hydroxide | 10N, 7.5 mL | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
reactant | hydrochloric acid | 1N | Cl | ClH
reactant | ethanol | 7.5 mL | C(C)O | C2H6O
solvent | water | 30 mL | O | H2O
product | 2-Amino-5-carboxy-4-methylpyridine | NC1=NC=C(C(=C1)C)C(=O)O | C7H8N2O2
